* Copyright (c) 1998-2022 Analog Devices, Inc.  All rights reserved.
*
.subckt ADL5304 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16 17 18 19 20 21 22 23 24
Q1 AINn 7 24 0 2N2369i
Q2 BINn 7 8 0 2N2369i
R1 16 18 5k Noiseless
I1 10 5 {100n+Drift_100n* (Temp-27)}
F1 1 22 VInum 1.1
G1 10 N017 23 9 1.343µ
R17 N017 10 1k Noiseless
G2 10 18 N017 10 1
R12 N020 12 1µ
VInum N011 AINn 0
R20 20 10 1m Noiseless
C3 20 10 1µ
I2 10 20 {1k*(1.5+Drift_1P5V* (Temp-27))}
R21 13 10 1m Noiseless
C8 13 10 1µ
I3 10 13 {1k*(2+Drift_2V* (Temp-27))}
I4 21 10 {Iq_pos}
I5 11 N020 {Iq_neg}
R24 N011 3 1m Noiseless
I8 3 N011 {1k*(Vos_Inum+Drift_Inum* (Temp-27))}
R25 BINn 4 1m Noiseless
I9 4 BINn {1k*(1n+Drift_Inum* (Temp-27))}
R22 CINp 19 1m
I6 19 CINp {1k*Voso}
I7 10 19 {Ibo}
R26 17 10 {Rout} Noiseless
DOP Vsatp 17 DO
DON 17 Vsatn DO
G4 10 Vsatp Satp 10 1k
R28 Vsatp 10 1m
G5 10 Vsatn Satn 10 1k
R29 Vsatn 10 1m
C11 17 Vsatp 1f
C12 17 Vsatn 1f
C13 Vsatp 10 1n
C14 Vsatn 10 1n
R30 Satp 21 1k
C15 Satp 21 1n
R31 Satn 11 1k
C16 Satn 11 1n
I11 Satp 21 216µ
I12 11 Satn 216µ
B1 10 17 I=Limit((1/{Rout})* V(BUF,10), -1, 2.5)
C5 10 19 1p Rpar={Rinps} Noiseless
C7 Avo1_num 10 1e-18
R23 N033 10 1Meg Noiseless
G3 10 N033 N032 10 1µ
C10 N033 10 {Cfp2_num}
R32 Avo1_num 10 1Meg Noiseless
R33 N032 10 1Meg Noiseless
G6 10 Avo1_num 2 AINn 100µ
G7 10 24 N033 10 1
R34 24 10 1 Noiseless
G8 10 N032 Avo1_num 10 {Avo2_num/ 1Meg}
C18 Avo1_den 10 1e-18
R35 N036 10 1Meg Noiseless
G9 10 N036 N035 10 1µ
R36 Avo1_den 10 1Meg Noiseless
R37 N035 10 1Meg Noiseless
G10 10 Avo1_den 6 BINn 100µ
G11 10 8 N036 10 1
R38 8 10 1 Noiseless
G12 10 N035 Avo1_den 10 {Avo2_den/ 1Meg}
C21 Avo1C 10 1e-18
R39 N034 10 1Meg Noiseless
G13 10 N034 ClampC 10 1µ
R40 Avo1C 10 1Meg Noiseless
R41 ClampC 10 1Meg Noiseless
G14 10 Avo1C N031 18 100µ
G16 10 ClampC Avo1C 10 {Avo2_out/ 1Meg}
R53 BUF 10 1 Noiseless
G15 10 BUF N034 10 1
G17 CINp N031 E_n 10 1Meg
R54 N031 CINp 1µ
R2 16 15 5k Noiseless
R3 18 14 7.5k Noiseless
R59 N037 10 100k Noiseless
R60 VNp 10 100k Noiseless
A3 10 10 10 10 10 10 N037 10 OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En=V(fA)/(freq**V(M))
A4 10 N037 10 10 10 10 VNp 10 OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En=V(BB)
R57 N038 VNn 10k Noiseless
C25 N038 10 1f
L1 N042 N043 Flux=x*V(Lboost)
R58 N043 10 R=V(RG)
R61 N038 10 1 Noiseless
R62 N039 10 2Meg Noiseless
G19 10 N039 N038 10 1µ
R63 E_n 10 1Meg Noiseless
G21 10 E_n N039 10 1µ
B2 0 BB I=1m*Table(I(VInum), 100p, 10u, 1n, 680n, 10n, 130n, 100n, 43n, 1u, 30n) Rpar=1k Cpar=1n
B4 0 fC I=1m*Table(I(VInum), 1n, 1m, 10n, 350, 100n, 2k, 1u, 7.5k) Rpar=1k Cpar=1n
B5 0 M I=1m*Table(I(VInum), 1n, 0.5, 10n, 0.57, 100n, 0.63, 1u, 0.58) Rpar=1k Cpar=1n
B6 0 G20 I=1m*Table(I(VInum), 100p, 1, 1n, 5.1, 10n, 20, 100n, 20, 1u, 3) Rpar=1k Cpar=1n
B10 0 C27 I=1m*Table(I(VInum), 100p, 1.5p, 1n, 200f, 10n, 40f, 100n, 1f) Rpar=1k Cpar=1n
B11 0 C28 I=1m*Table(I(VInum), 10n, 25f, 100n, 1f) Rpar=1k Cpar=1n
B3 0 fA I=1m*V(BB)*(V(fC)**V(M)) Rpar=1k Cpar=1n
R52 N040 10 1µ
C27 N039 N040 Q=x*V(C27)
R55 N041 10 1µ
C28 E_n N041 Q=x*V(C28)
B12 10 N038 I=V(VNp,VNn)*V(G20)
B7 0 RG I=1m*Table(I(VInum), 1u, 101, 10u, -10k) Rpar=1k Cpar=1n
B8 0 Cboost I=1m*Table(I(VInum), 100p, 4.9n, 1n, 2.65n, 10n, 1.03n, 100n, 278p, 1u, 61.2p, 10u, 0.612f) Rpar=1k Cpar=1n
C23 N042 VNn Q=x*V(Cboost)
B9 0 Lboost I=1m*Table(I(VInum), 100p, 122m, 1n, 2.65m, 10n, 838u, 100n, 337u, 1u, 103u, 10u, 10.3) Rpar=1k Cpar=1n
C24 N032 10 {Cfp1_num}
C26 N035 10 {Cfp1_den}
C22 N036 10 {Cfp2_den}
C29 ClampC 10 {Cfp1_out}
C30 N034 10 {Cfp2_out}
C6 14 10 1f
C17 15 10 1f
C19 16 10 1f
I10 2 10 1f
I13 6 10 1f
I14 9 N020 1f
I15 23 10 1f
.param Iscp_1P5V=5m Iscn_1P5V=-10m
.param Iscp_2V=20m Iscn_2V=-1u
.param Vos_Inum=0.6m Drift_Inum=0.01m
.param Drift_1P5V=30u Drift_2V=31u
.param Drift_100n=-70p
.param Iq_pos=13.5m Iq_neg=-7.3m
.param Voso=0.1m Ibo=-1.3u
.param Rinps=12Meg Rout=2
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.model 2N2369i NPN(Is=600f Xti=3 Eg=1.11  Vaf=100 Bf=78.32  Ne=1.389  Ise=91.95f  Ikf=0.3498  Xtb=1.5 Br=360u
+Nc=20 Isc=0 Ikr=0  Rc=0.6  Cjc=1e-18 Mjc=86.19m Vjc=0.75 Fc=0.5 Cje=4.5p Mje=0.2418  Vje=0.75  Tr=1.073u Tf=227.6p
+Itf=0.3 Vtf=4 Xtf=4 Rb=10 Vceo=15 Icrating=200m  mfg=NXP Noiseless)
.param Avo_num=120
.param Avo2_dB_num={Avo_num-40}
.param Avo2_num = {pwr(10, (Avo2_dB_num)/20)}
.param Avo_out=120
.param Avo2_dB_out={Avo_out-40}
.param Avo2_out = {pwr(10, (Avo2_dB_out)/20)}
.param fp1_num=50m fp2_num=1G
.param Cfp1_num={1 / (2 * pi * fp1_num * 1Meg)}
.param Cfp2_num={1 / (2 * pi * fp2_num * 1Meg)}
.param fp1_out=3.5 fp2_out=20Meg
.param Cfp1_out={1 / (2 * pi * fp1_out * 1Meg)}
.param Cfp2_out={1 / (2 * pi * fp2_out * 1Meg)}
.param Avo_den=120
.param Avo2_dB_den={Avo_den-40}
.param Avo2_den = {pwr(10, (Avo2_dB_den)/20)}
.param fp1_den=3m fp2_den={fp2_num}
.param Cfp1_den={1 / (2 * pi * fp1_den * 1Meg)}
.param Cfp2_den={1 / (2 * pi * fp2_den * 1Meg)}
.ends ADL5304
